US07855194B2
(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(4,6-dimethoxy-[1,3,5]triazin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.60 g, 7.66 mmol) in 4 M HCl in dioxane (100 mL) was stirred at 0° C. for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 240.4 [M+H]+.

reactant | 4-(4,6-dimethoxy-[1,3,5]triazin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 7.66 mmol, 2.60 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=N1)OC)OC | C15H25N5O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (4,6-Dimethoxy-[1,3,5]triazin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.COC1=NC(=NC(=N1)OC)NC1CCNCC1 | InChI=1S/C10H17N5O2.2ClH/c1-16-9-13-8(14-10(15-9)17-2)12-7-3-5-11-6-4-7;;/h7,11H,3-6H2,1-2H3,(H,12,13,14,15);2*1H
